US07374771B2
984 g of adduct (8 mol of Mbutyl (=butyl-Me2SiO0.5) and 1312 (8 mol) of hexamethyldisiloxane are initially introduced into a flask equipped with stirrer, thermometer, water separator, reflux condenser and nitrogen blanketing, admixed with 0.1% sulphuric acids and 0.05% perfluorobutanesulphonic acid, neutralized for 4 h at a bottom temperature of 70° C. with 20 g of calcined soda, 3 g of water and 0.5 g of 25% strength NH3 solution, distilled to 110° C., cooled and filtered. This gives 1950 g of a crude product consisting of 36% hexamethyldisiloxane, 47% 1,1,1,3,3-pentamethyl-3-butyldisiloxane and 17% 1,1,3,3-tetramethyl-1,3-dibutyldisiloxane, which, as result of fractional distillation, produces 810 g of 97%-pure 1,1,1,3,3-pentamethyl-3-butyldisiloxane with a boiling temperature of 166-169° C. Bottoms and separated-off hexamethyldisiloxane can be passed to further equilibrations.

reactant | hexamethyldisiloxane | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | perfluorobutanesulphonic acid | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)O)F | C4HF9O3S
reactant | NH3 | N | H3N
solvent | water | 3 g | O | H2O
product | 1,1,1,3,3-pentamethyl-3-butyldisiloxane | C[Si](O[Si](CCCC)(C)C)(C)C | C9H24OSi2
